US08530482B2
3.3 g (16.9 mmol) of N-(5-acetyl-2-fluoro-phenyl)-acetamide were dissolved in 8.36 ml (7.49 g) (62.89 mmol) of N,N-dimethylformamide dimethylacetal and the resultant solution was refluxed for 6.5 hours. The excess of volatile reagent was removed by reduced pressure distillation to yield a crude which was crystallized from ethyl acetate. 3.32 g of N-[5-(3-dimethylamino-acryloyl)-2-fluoro-phenyl]-acetamide as a yellowish-white solid were obtained (yield 78.6%).

reactant | N-(5-acetyl-2-fluoro-phenyl)-acetamide | 16.9 mmol, 3.3 g | C(C)(=O)C=1C=CC(=C(C1)NC(C)=O)F | C10H10FNO2
reactant | N,N-dimethylformamide dimethylacetal | 62.89 mmol, 8.36 ml, 7.49 g | COC(N(C)C)OC | C5H13NO2
product | N-[5-(3-dimethylamino-acryloyl)-2-fluoro-phenyl]-acetamide | 3.32 g, yield 78.6% | CN(C=CC(=O)C=1C=CC(=C(C1)NC(C)=O)F)C | C13H15FN2O2
